US09255217B2
N-[[4,6-bis[(cyclohexylideneamino)oxy]-1,3,5-triazin-2-yl]oxy]cyclohexanimine
To a cold (0° C.) solution of cyclohexanone oxime (4.53 g, 0.04 mol) in dry pyridine (20 ml) is added cyanuric chloride (1.84 g, 0.01 mol). An exothermic reaction occurs and the temperature rises to 22° C. The solution is then stirred 15 h at room temperature and then poured into 200 ml of ice-cold water. The precipitated solid is filtered off, dried and recrystallized from dichloromethane-hexane to afford 3.57 g of the title compound as a white solid. The compound decomposes without melting above 120° C. (DSC data).

reactant | cyclohexanone oxime | 0.04 mol, 4.53 g | C1(CCCCC1)=NO | C6H11NO
reactant | cyanuric chloride | 0.01 mol, 1.84 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[[4,6-bis[(cyclohexylideneamino)oxy]-1,3,5-triazin-2-yl]oxy]cyclohexanimine | 3.57 g | C1(CCCCC1)=NOC1=NC(=NC(=N1)ON=C1CCCCC1)ON=C1CCCCC1 | C21H30N6O3
